US04659708
A. N-(6-Methoxy-4-methyl-8-quinolinyl)-2,6-dimethyl-4-morpholinehexanamide
A mixture of 5.5 g (0.015 mole) of 6-bromo-N-(6-methoxy-4-methyl-8-quinolinyl)hexanamide and 1.85 ml (0.018 mole) of 2,6-dimethylmorpholine in 90 ml of benzene was heated under reflux for 24 hr. Triethylamine (2 ml) was added and the mixture was heated under reflux for an additional 2 hr, allowed to cool, and filtered. The filtrate was washed with water, dried and concentrated. TLC(silica gel--ethyl acetate) demonstrated a mixture of the unchanged bromo compound, Rf(silica--ethyl acetate)=0.63, and the product, Rf=0.08. A solution of the residue, 1.3 ml (0.01 mole) of 2,6-dimethylmorpholine, and 1.5 ml of triethylamine in 80 ml of benzene was heated under reflux for 40 hr, allowed to cool, filtered, washed with water, dried and concentrated. The residue was chromatographed over 200 g of silica gel with 1 liter each of the following solutions of methanol in ethyl acetate: 1.5%, 2%, 3% to afford 3.7 g of crude product. Recrystallization from hexane afforded 3.3 g of the title compound, mp 87°-90°. The NMR spectrum confirmed the presence of hexane.

reactant | 6-bromo-N-(6-methoxy-4-methyl-8-quinolinyl)hexanamide | 0.015 mole, 5.5 g | BrCCCCCC(=O)NC=1C=C(C=C2C(=CC=NC12)C)OC | C17H21BrN2O2
reactant | 2,6-dimethylmorpholine | 0.018 mole, 1.85 ml | CC1CNCC(O1)C | C6H13NO
reactant | Triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | 2,6-dimethylmorpholine | 0.01 mole, 1.3 ml | CC1CNCC(O1)C | C6H13NO
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 90 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | N-(6-Methoxy-4-methyl-8-quinolinyl)-2,6-dimethyl-4-morpholinehexanamide | 3.3 g | COC=1C=C2C(=CC=NC2=C(C1)NC(CCCCCN1CC(OC(C1)C)C)=O)C | C23H33N3O3
